US07855066B1
The cell pellet was homogenized in 6 volumes 0.1 M Tris-HCl pH 8, 0.2 M NaCl, 5 mM DTT, 1 mM EDTA, and Apo-2L was isolated from the soluble fraction by IMAC on a chelating hiTRAP column (Pharmacia) charged with nickel. The Apo-2L had a weak affinity for immobilized metal and could be eluted with low concentrations of imidazole. A final purification was obtained by cation exchange chromatography on a SP hiTRAP column (Pharmacia). Concentrations of purified Apo-2L variants were determined by absorbance measurements using an e280 of 1.4 mg−1 ml cm−1.

reactant | Tris-HCl | 0.1 M, pH 8 | C(C(CO)(CO)N)O.Cl
reactant | DTT | 5 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | IMAC | C1=C(NC=N1)CC(=O)O | C5H6N2O2
